US04360675
1-Benzyl-2,2,6,6-tetramethyl-4-piperidyl vinyl ether
The following compounds were obtained in a similar manner: 2,3,6-trimethyl-2,6-diethyl-4-piperidyl vinyl ether, boiling point 121°/18 mm Hg; 1-allyl-2,2,6,6-tetramethyl-4-piperidyl vinyl ether, boiling point 63°/0.1 mm Hg; 1-butyl-2,2,6,6-tetramethyl-4-piperidyl vinyl ether, boiling point 66°-67°/0.1 mm Hg and 2,2,6,6-tetramethyl-4-piperidyl vinyl ether, boiling point 78°/19 mm Hg.

reactant | 2,3,6-trimethyl-2,6-diethyl-4-piperidyl vinyl ether | C(=C)OC1C(C(NC(C1)(CC)C)(CC)C)C | C14H27NO
reactant | 1-allyl-2,2,6,6-tetramethyl-4-piperidyl vinyl ether | C(=C)OC1CC(N(C(C1)(C)C)CC=C)(C)C | C14H25NO
reactant | 1-butyl-2,2,6,6-tetramethyl-4-piperidyl vinyl ether | C(=C)OC1CC(N(C(C1)(C)C)CCCC)(C)C | C15H29NO
reactant | 2,2,6,6-tetramethyl-4-piperidyl vinyl ether | C(=C)OC1CC(NC(C1)(C)C)(C)C | C11H21NO
product | 1-Benzyl-2,2,6,6-tetramethyl-4-piperidyl vinyl ether | C(=C)OC1CC(N(C(C1)(C)C)CC1=CC=CC=C1)(C)C | C18H27NO
